US08008298B2
A microwave tube was charged with 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one (152 mg, 0.54 mmol), 3-ethylphenylboronic acid (89 mg, 0.59 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) (35 mg, 0.042 mmol), and K2CO3 (186 mg, 1.34 mmol). Dioxane (4 ml) and water (1 ml) were added, and the tube was microwaved at 150° C. for 45 min. The reaction mixture was filtered through a plug of celite. The filtrate was collected and partitioned between EtOAc/water. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a dark brown solid. The crude product was purified by silica gel chromatography using 20-50% EtOAc in hexanes as eluant provided 82 mg (50%) of 1-[2-(3-ethyl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow solid. MP 199-200.1° C., M+H=308.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | 0.54 mmol, 152 mg | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 3-ethylphenylboronic acid | 0.59 mmol, 89 mg | C(C)C=1C=C(C=CC1)B(O)O | C8H11BO2
reactant | K2CO3 | 1.34 mmol, 186 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | 0.042 mmol, 35 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 ml | O | H2O
product | 1-[2-(3-ethyl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 82 mg, 50% | C(C)C=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C19H21N3O
